US08664220B2
Step 3: [1-(4-Bromo-phenyl)-cyclopropyl]-methanol
1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester (25 g, 92.89 mmol) was dissolved in THF (175 mL) and was stirred under N2 atmosphere at −4° C. Lithium aluminum hydride (4.58 g, 120.75 mmol) was added in portions and the reaction stirred between 2 to 8° C. for 1 hour. The reaction was worked up using the Fieser method, filtered and concentrated to afford the title compound.

reactant | 1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester | 92.89 mmol, 25 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)Br | C12H13BrO2
reactant | Lithium aluminum hydride | 120.75 mmol, 4.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | [1-(4-Bromo-phenyl)-cyclopropyl]-methanol | BrC1=CC=C(C=C1)C1(CC1)CO | C10H11BrO
